US07179823B1
A mixture of ethyl(1-[2-(4-benzyloxyphenyl)ethyl]-3-phenyl-1H-pyrazol-4-yl)acetate (800 mg), 5% palladium-carbon (1.50 g), tetrahydrofuran (20 ml), and ethanol (30 ml) was stirred for 3 hours at room temperature under a hydrogen atmosphere. After the palladium-carbon was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and ethyl [1-[2-(4-hydroxyphenyl)ethyl]-3-phenyl-1H-pyrazol-4-yl]acetate (400 mg, yield: 63%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | ethyl(1-[2-(4-benzyloxyphenyl)ethyl]-3-phenyl-1H-pyrazol-4-yl)acetate | 800 mg | C(C)OC(CC=1C(=NN(C1)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C28H28N2O3
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 1.50 g | [C].[Pd]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl [1-[2-(4-hydroxyphenyl)ethyl]-3-phenyl-1H-pyrazol-4-yl]acetate | 400 mg, yield: 63% | OC1=CC=C(C=C1)CCN1N=C(C(=C1)CC(=O)OCC)C1=CC=CC=C1 | C21H22N2O3
